US07456164B2
{3-[4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-isopropyl-amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (730 mg, 3.10 mmol), 3-chloro-1-bromopropane (980 mg, 6.20 mmol), DMF (10 ml) and K2CO3 (1.72 g, 12.40 mmol) were reacted together according to general procedure B. Purification by chromatography on silica, eluant DCM:MeOH (20:1) provided a mixture of bromo and chloro phenoxy ether (250 mg) which was used in the next stage. The mixture (250 mg) was refluxed with isopropyl amine (34° C.) (10 ml, 40 vol) for 7 days. The reaction was concentrated in vacuo and partitioned between 2M NaOH (10 ml) and DCM (10 ml). The aqueous phase was extracted with DCM (3×10 mL). The combined DCM layers were dried over MgSO4, filtered, washed with DCM and concentrated in vacuo. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (95:5:0) increasing gradually to DCM:MeOH:NH3 (90:9:1) gave the title compound as a pale yellow solid (180 mg, 17% over the 2 steps). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.88 (d, 2H), 4.03 (t, 2H), 3.75 (dt, 2H), 3.59-3.50 (m, 2H), 2.89-2.76 (m, 3H), 2.40 (s, 2H), 2.15-2.05 (m, 2H), 2.03-1.93 (m, 2H), 1.96 (s, 6H), 1.88 (ddd, 2H), 1.49 (br s, 1H), 1.07 (d, 6H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 3.10 mmol, 730 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 3-chloro-1-bromopropane | 6.20 mmol, 980 mg | ClCCCBr | C3H6BrCl
reactant | K2CO3 | 12.40 mmol, 1.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropyl amine | 10 ml | C(C)(C)N | C3H9N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | {3-[4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-isopropyl-amine | CN(C)CC1(CCOCC1)C1=CC=C(OCCCNC(C)C)C=C1 | C20H34N2O2
